US06982274B2
3-Bromo-6-fluoro-2-methoxy-benzaldehyde
In an atmosphere of nitrogen gas, 18.7 ml of a 2.66 M solution of n-butyllithium in hexane was added to a solution of 5 g of N,N-diisopropylamine in 89 ml tetrahydrofuran at −78° C. After stirring at the same temperature for 1 hour and 10 minutes, 9.27 g of l-bromo-4-fluoro-2-methoxy-benzene obtained in Production Example II-1-a was added dropwise. After stirring at the same temperature for 1.5 hours, 5.52 ml of N-formylpiperidine was added dropwise. After stirring at the same temperature for 25 minutes, 9 ml of acetic acid was added at the same temperature, water was added at room temperature, and the mixture was extracted with diethyl ether for three times. The extract was sequentially washed with 0.2 N hydrochloric acid, water and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated. The crude product was purified and separated by silica gel column chromatography, to give 5.65 g of the title compound as pale yellow crystals.

reactant | n-butyllithium | C(CCC)[Li]
reactant | N,N-diisopropylamine | 5 g | C(C)(C)NC(C)C | C6H15N
reactant | l-bromo-4-fluoro-2-methoxy-benzene | 9.27 g | BrC1=C(C=C(C=C1)F)OC | C7H6BrFO
reactant | N-formylpiperidine | 5.52 ml | C(=O)N1CCCCC1 | C6H11NO
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 89 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | acetic acid | 9 ml | C(C)(=O)O | C2H4O2
product | 3-Bromo-6-fluoro-2-methoxy-benzaldehyde | 5.65 g | BrC=1C(=C(C=O)C(=CC1)F)OC | C8H6BrFO2
